US04867973
10.1. FORMATION OF ANTIBODY-GLY-GLY-ARG-TYR* CONJUGATES
Gly-Gly-Arg-Tyr*, prepared by the method of Section 9.2, was coupled to normal human IgG or LL 1151 or NS 4.1 antibody oxidized by the method of Section 12.1 infra, by incubating the antibody at a 300-fold molar excess of Gly-Gly-Arg-Tyr* in the 0.1 M phosphate buffer, pH 6.0. To reduce the imine, sodium cyanoborohydride (NaCNBH3) was added to a final concentration of 10 mM, and the reaction mixture was maintained at room temperature for 2 hours. Unreacted Gly-Gly-Arg-Tyr* was separated from theantibody conjugate by gel filtration. The sample was passed through a 5 ml Sephadex® G-50 column (Pharmacia Fine Chemicals, Piscataway, N.J.), which had been pre-coated with 1 ml of 10% BSA and run in PBS, pH 7.4. Theprotein fractions were pooled.

reactant | Gly-Gly-Arg-Tyr | NCC(=O)NCC(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C19H29N7O6
reactant | phosphate | 0.1 M | P(=O)([O-])([O-])[O-]
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | GLY-GLY-ARG | C(CC(C(=O)O)NC(=O)CNC(=O)CN)CN=C(N)N | C10H20N6O4
